US08168635B2
Ethyl-3-(5′-fluoro-2′-methoxyphenyl)propionate:
To a solution of ethyl-3-(5′-fluoro-2′-methoxyphenyl)acrylate (6.0 g, 27 mmol) in ethanol (100%, 80 mL) under Ar was added Pd/C (10%, 250 mg) very carefully and the flask containing the mixture was evacuated and purged with H2 three time each. Then a H2 balloon was attached to the flask and charged with H2 and the reaction was allowed to go for 20 h at room temperature. Then the reaction mixture was filtered through a pad of silica eluted with mixed solvent of EtOAc and Hexane (1:1). The crude product that obtained by removal of the solvent in vacuo was purified by flash column chromatography (10% EtOAc in hexane, Rf=0.20) to give the product (5.8 g, 95%).

reactant | ethyl-3-(5′-fluoro-2′-methoxyphenyl)acrylate | 27 mmol, 6.0 g | C(C)OC(C=CC1=C(C=CC(=C1)F)OC)=O | C12H13FO3
solvent | ethanol | 80 mL | C(C)O | C2H6O
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | Ethyl-3-(5′-fluoro-2′-methoxyphenyl)propionate | 5.8 g, 95% | C(C)OC(CCC1=C(C=CC(=C1)F)OC)=O | C12H15FO3
